US06235778B1
b) [1-[5-Methyl-3-(2-methylsulfonylphenylsulfonyloxy)phenoxy]methyl]cyclopropylmethanol
To a solution of 3-(2-methylsulfonylphenylsulfonyloxy)-5-methylphenol (6.85 g, 20.0 mmol), as prepared in step a of Example 8, tri-N-butylphosphine (6.1 g, 30 mmol) and 1,1-dihydroxylmethylcyclopropane (5.1 g, 50 mmol), as prepared in the preceding step, in tetrahydrofuran (200 mL) was added 1,1′-(azodicarbonyl)dipiperidine (7.6 g, 30 mmol). The mixture was stirred at room temperature overnight, hexane (300 mL) was added to the mixture and the precipitates were removed by filtration. The filtrate was evaporated in vacuo, the residue was purified by flash column chromatography (1:1 to 2:1 ethyl acetate/hexane) and by crystallization from ethyl acetate/hexane (1:5) to give the title compound as white solid (4.9 g, 57%). 1H-NMR (300 MHz, CDCl3) δ8.45 (d, J=7.8 Hz, 1H), 8.13 (d, J=7.9 Hz, 1H), 7.88 (t, J=7.7 Hz, 1H), 7.75 (t, J=7.7 Hz, 1H), 6.77 (br s, 3H), 3.82 (s, 2H), 3.59 (d, J=5.5 Hz, 2H), 3.45 (s, 3H), 2.23 (s, 3H), 0.61 (s, 4H).

reactant | 3-(2-methylsulfonylphenylsulfonyloxy)-5-methylphenol | 20.0 mmol, 6.85 g | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)OC=1C=C(C=C(C1)C)O | C14H14O6S2
reactant | tri-N-butylphosphine | 30 mmol, 6.1 g | CCCCP(CCCC)CCCC | C12H27P
reactant | 1,1-dihydroxylmethylcyclopropane | 50 mmol, 5.1 g | OCC1(CC1)CO | C5H10O2
reactant | 1,1′-(azodicarbonyl)dipiperidine | 30 mmol, 7.6 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | hexane | 300 mL | CCCCCC | C6H14
product | [1-[5-Methyl-3-(2-methylsulfonylphenylsulfonyloxy)phenoxy]methyl]cyclopropylmethanol | 4.9 g, 57% | CC=1C=C(C=C(OCC(O)C2CC2)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C19H22O7S2
